US04061761
4-[4-Chloro-3-(2-furylmethylsulfamoyl)-phenyl]-3-methyl-2-methylimino-1,3-thiazolidine-4-ol
6.5 g of 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide were reacted as prescribed in Example 76 with 1.5 g of 2-furylmethyl amine and 3.5 of triethyl amine and worked up. Melting point: 154° C (decomposition).

reactant | 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | 6.5 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(=O)(=O)Cl
reactant | 2-furylmethyl amine | 1.5 g | O1C(=CC=C1)CN | C5H7NO
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 4-[4-Chloro-3-(2-furylmethylsulfamoyl)-phenyl]-3-methyl-2-methylimino-1,3-thiazolidine-4-ol | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(NCC=1OC=CC1)(=O)=O | C16H18ClN3O4S2
